* C:\Users\IEUser\Documents\Power-Pack\SPICE\Synchronous_Buck.asc
XU1 N008 N010 N004 N009 MP_01 N005 N003 N006 0 LTC4444
D1 N004 N005 D
C1 N006 N005 .22µ V=25
L1 N006 N007 22µ Ipk=36.6 Rser=0.002236 Rpar=2072.4 Cpar=0 flux=0.000022*36.6*tanh(x/36.6)
XU2 N001 N003 N006 irfh7191pbf
XU3 N006 N009 0 irfh7191pbf
V1 N002 0 48
C2 N002 0 100µF
C3 N002 0 100µF
R1 N002 N001 0.001
C4 N007 0 1000µ V=63 Irms=1.41 Rser=.2324
C5 N007 0 1000µ V=63 Irms=1.41 Rser=0.2324
C6 N007 0 1000µ V=63 Irms=1.41 Rser=.2324
R2 N007 0 1
V2 N004 0 12
C7 N004 0 1µ
V3 N010 0 PULSE(0 5 1u 25n 25n 1u 2u)
V4 N008 0 PULSE(0 5 0 25n 25n 1u 2u)
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 100m
.lib C:\Users\IEUser\Documents\Power-Pack\SPICE\Models\irfh7191pbf.spi
.lib LTC4444.sub
.backanno
.end
